US04686228
A solution of 1,4-benzodioxan-2-carbonyl chloride (0.75 g) in chloroform (10 ml) was added dropwise to a stirred solution of 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline (1.0 g) in chloroform (50 ml) with triethylamine (1.06 g) at 5°-10°. The reaction was stirred at 5°-10° for one hour, then allowed to attain room temperature and stirred overnight. The mixture was then evaporated in vacuo and the residue partitioned between chloroform (50 ml) and sodium carbonate solution (10%, 50 ml). The chloroform layer was separated, the aqueous phase extracted with chloroform (2×50 ml), the extracts combined, washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was then taken up in chloroform and chromatographed on silica (Merck 9385, 60 g) eluting with chloroform/methanol (100:0→97:3). A solution of the purified product in chloroform was treated with ethereal hydrogen chloride, evaporated in vacuo and the residue recrystallised from isopropanol to give 4-amino-2-[ 4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-dimethoxyquinoline hydrochloride hydrate (0.28 g), m.p. 201°.

reactant | 1,4-benzodioxan-2-carbonyl chloride | 0.75 g | O1C(COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | 4-amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline | 1.0 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C15H20N4O2
reactant | triethylamine | 1.06 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-2-[ 4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-dimethoxyquinoline hydrochloride hydrate | 0.28 g | O.Cl.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1COC2=C(O1)C=CC=C2 | InChI=1S/C24H26N4O5.ClH.H2O/c1-30-20-11-15-16(25)12-23(26-17(15)13-21(20)31-2)27-7-9-28(10-8-27)24(29)22-14-32-18-5-3-4-6-19(18)33-22;;/h3-6,11-13,22H,7-10,14H2,1-2H3,(H2,25,26);1H;1H2
